US07205409B2
3-Hydroxy-pyridine-2-carboxylic acid tert-butyl ester
3-Hydroxypicolinic acid (500 mg, 3.6 mmol) was stirred in toluene (4 mL) and heated to 80° C. N,N-dimethylformamide di-t-butyl acetal (1.9 ml, 7.97 mmol) was added in portions. The mixture was stirred for 2 hours and then concentrated. It was purified by column chromatography to give the product (300 mg, 46%). MS (DCI) m/z 196 (M+H)+.

reactant | 3-Hydroxypicolinic acid | 3.6 mmol, 500 mg | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | N,N-dimethylformamide di-t-butyl acetal | 7.97 mmol, 1.9 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Hydroxy-pyridine-2-carboxylic acid tert-butyl ester | 300 mg, 46% | C(C)(C)(C)OC(=O)C1=NC=CC=C1O | C10H13NO3
